US05532235
N-[4-[(4,5-Dihydro-6H-isoxazolo[5,4-d]thieno[3,2,b]azepin-6-yl)carbonyl]phenyl]-5-fluoro-2-methylbenzamide
As described for Example 1, a solution of 2 mmol of 5,6-dihydro-6-(4-aminobenzoyl)-4H-isoxazolo [5,4-d]thieno[3,2-b]azepine and 5 mmol of triethylamine is reacted with 2.2 mmol of 5-fluoro-2-methylbenzoyl chloride in 10 ml of dichloromethane under argon for 16 hours to give the product as a solid.

reactant | 5,6-dihydro-6-(4-aminobenzoyl)-4H-isoxazolo [5,4-d]thieno[3,2-b]azepine | 2 mmol | NC1=CC=C(C(=O)N2C3=C(C4=C(CC2)C=NO4)SC=C3)C=C1 | C16H13N3O2S
reactant | triethylamine | 5 mmol | C(C)N(CC)CC | C6H15N
reactant | 5-fluoro-2-methylbenzoyl chloride | 2.2 mmol | FC=1C=CC(=C(C(=O)Cl)C1)C | C8H6ClFO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-[4-[(4,5-Dihydro-6H-isoxazolo[5,4-d]thieno[3,2,b]azepin-6-yl)carbonyl]phenyl]-5-fluoro-2-methylbenzamide | O1N=CC2=C1C1=C(N(CC2)C(=O)C2=CC=C(C=C2)NC(C2=C(C=CC(=C2)F)C)=O)C=CS1 | C24H18FN3O3S
